US06545009B1
In the same manner as in Example 74, thiobenzamide was reacted with ethyl 4-bromoacetylbenzoate to obtain ethyl 4-(2-phenyl-4-thiazolyl]benzoate. The product was recrystallized from ethanol. Yield: 68%. Pale yellow prisms. Melting point: 72 to 73° C.

reactant | thiobenzamide | C(C1=CC=CC=C1)(=S)N | C7H7NS
reactant | ethyl 4-bromoacetylbenzoate | BrCC(=O)C1=CC=C(C(=O)OCC)C=C1 | C11H11BrO3
product | ethyl 4-(2-phenyl-4-thiazolyl]benzoate | Yield: 68% | C1(=CC=CC=C1)C=1SC=C(N1)C1=CC=C(C(=O)OCC)C=C1 | C18H15NO2S
